US06465491B2
D. 2-(4-Iodophenyl)ethylchloride
To a 500 mL round-bottomed flask equipped with dropping funnel, condenser and N2 inlet were added 307 g (124 mmol) 2-(4-iodophenyl)ethanol, 200 mL chloroform, and 10.0 mL (124 mmol) pyrdine. A solution of 13.5 mL (186 mmol) thionyl chloride in 50 mL chloroform was added dropwise over 15 min, and the reaction then heated at reflux for 2 hr. The reaction was cooled, the solvent evaporated, and the residue taken up in ethyl acetate, washed with 1 N hydrochloric acid, water, saturated aqueous sodium bicarbonate solution and brine, dried, and evaporated. The resulting oil was chromatographed on silica gel using 20% ethyl acetate in hexane as eluant to afford 32.6 g (99%) of the product as an oil.

reactant | 2-(4-iodophenyl)ethanol | 124 mmol, 307 g | IC1=CC=C(C=C1)CCO | C8H9IO
reactant | thionyl chloride | 186 mmol, 13.5 mL | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-(4-Iodophenyl)ethylchloride | 32.6 g, 99% | IC1=CC=C(C=C1)CCCl | C8H8ClI
